US08193164B2
Intermediate WG 9-[(1R,2S,3R,4S)-2,3-Dihydroxy-4-(2-hydroxy-acetylamino)-cyclopentyl]-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-9H-purine-2-carboxylic acid (2-amino-ethyl)-amide
9-[(1R,2S,3R,4S)-4-(2-Acetoxy-acetylamino)-2,3-dihydroxy-cyclopentyl]-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-9H-purine-2-carboxylic acid methyl ester (Intermediate WF) is dissolved in ethylenediamine (>10 eq.). The reaction mixture is stirred at 90° C. for 1 hour. The reaction mixture is cooled and reduced in vacuo. The title compound is obtained by column chromatography.

reactant | 9-[(1R,2S,3R,4S)-4-(2-Acetoxy-acetylamino)-2,3-dihydroxy-cyclopentyl]-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-9H-purine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(COC(C)=O)=O)O)O)N[C@@H](CC1=CC=CC=C1)CO | C25H30N6O8
reactant | ethylenediamine | >10 eq. | C(CN)N | C2H8N2
product | 9-[(1R,2S,3R,4S)-2,3-Dihydroxy-4-(2-hydroxy-acetylamino)-cyclopentyl]-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-9H-purine-2-carboxylic acid (2-amino-ethyl)-amide | NCCNC(=O)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CO)=O)O)O)N[C@@H](CC1=CC=CC=C1)CO | C24H32N8O6
